US05376681
4-Amino-2,3,5-trimethylphenol
Solid Na2CO3 (13.7 g, 129 mmol) was added slowly with stirring at room temperature to a solution of sulfanilic acid (49.4 g, 258 mmol) in water (250 ml). After the reaction mixture became a homogeneous solution (when the mixture could not be dissolved at the temperature, it could be heated a little), the mixture was cooled with ice and a solution of NaNO2 (19.4 g, 280 mmol) in water (50 ml) was added at an inner temperature of below 10° C. Then, this solution was placed in a dropping funnel. The solution was added dropwise to a mixture of concentrated hydrochloric acid (46 ml) and ice (100 g) over about 10 minutes with stirring under ice cooling at an inner temperature of the dropping funnel of below 10° C. After the addition was completed, the reaction mixture was stirred for 30 minutes under ice cooling. Next, water (250 ml), NaOH (56.8 g, 142 mmol) and 2,3,5-trimethylphenol (35.3 g, 259 mmol) were placed in another reaction vessel equipped with a mechanical stirring apparatus and to this mixture was added dropwise the reaction mixture above with stirring under a stream of nitrogen over 15 minutes in the range of -10° C. to 5° C. At that time ice was properly added to the ice bath to cool the reaction system in order to keep a temperature of the contents in the dropping funnel below 10° C. After the addition was completed, the reaction mixture was heated to 50° C. and Na2S2O4 (11.9 g, 68.3 mmol) was added. Then the mixture was heated to 80° C. and further 5 equal parts of Na2S2O4 (214.2 g, 1.23 mol) were added at intervals of 5 minutes. The reaction mixture was stirred for 30 minutes at the same temperature and then cooled. The precipitated crystals were filtered. The crystals obtained were washed with water, dried and then recrystallized from ethyl acetate-isopropyl ether to obtain the desired compound (33.0 g, yield: 84.2%), m.p. 153°-154° C.

reactant | Na2CO3 | 129 mmol, 13.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | sulfanilic acid | 258 mmol, 49.4 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | NaNO2 | 280 mmol, 19.4 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 46 ml | Cl | ClH
reactant | NaOH | 142 mmol, 56.8 g | [OH-].[Na+]
reactant | 2,3,5-trimethylphenol | 259 mmol, 35.3 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | Na2S2O4 | 68.3 mmol, 11.9 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | Na2S2O4 | 1.23 mol, 214.2 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | water | 250 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 4-Amino-2,3,5-trimethylphenol | 33.0 g, yield: 84.2% | NC1=C(C(=C(C=C1C)O)C)C | C9H13NO
